Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, minimally tender, no rebound/guarding
Ext: no TTP

 
Pertinent Results:
LABS
=====================
___ 06:50AM BLOOD WBC-5.9 RBC-3.64* Hgb-10.7* Hct-31.7* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-12.4 RDWSD-39.7 Plt ___
___ 01:00AM BLOOD WBC-4.7 RBC-3.10* Hgb-9.2* Hct-27.0* 
MCV-87 MCH-29.7 MCHC-34.1 RDW-12.6 RDWSD-39.8 Plt ___
___ 06:40PM BLOOD WBC-7.1 RBC-3.42* Hgb-10.0* Hct-29.7* 
MCV-87 MCH-29.2 MCHC-33.7 RDW-12.5 RDWSD-39.8 Plt ___
___ 05:00PM BLOOD WBC-7.5 RBC-3.49* Hgb-10.3* Hct-30.0* 
MCV-86 MCH-29.5 MCHC-34.3 RDW-12.6 RDWSD-39.7 Plt ___
___ 09:27AM BLOOD WBC-8.4 RBC-3.69* Hgb-10.9* Hct-32.5* 
MCV-88 MCH-29.5 MCHC-33.5 RDW-12.7 RDWSD-40.4 Plt ___
___ 09:27AM BLOOD Neuts-63.4 ___ Monos-5.6 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-5.30 AbsLymp-2.32 AbsMono-0.47 
AbsEos-0.20 AbsBaso-0.05
___ 06:50AM BLOOD Plt ___
___ 01:00AM BLOOD Plt ___
___ 06:40PM BLOOD Plt ___
___ 05:00PM BLOOD Plt ___
___ 09:27AM BLOOD Plt ___
___ 09:27AM BLOOD ___ PTT-28.6 ___
___ 09:27AM BLOOD ___ PTT-28.6 ___
___ 09:27AM BLOOD Glucose-84 UreaN-12 Creat-0.6 Na-136 
K-4.0 Cl-104 HCO3-24 AnGap-12
___ 09:27AM BLOOD estGFR-Using this
___ 09:27AM BLOOD HCG-<5
___ 09:39AM BLOOD Lactate-0.9

MICOBIOLOGY
=====================
___ 9:27 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING
=====================
___
EXAMINATION:  PELVIS, NON-OBSTETRIC
 
INDICATION:  History: ___ with abdominal pain with CT scan 
concerning for cyst
with active extravasation.  // Ovarian cysts?
 
TECHNIQUE:  Grayscale ultrasound images of the pelvis were 
obtained with
transabdominal approach followed by transvaginal approach for 
further
delineation of uterine and ovarian anatomy.
 
COMPARISON:  CT abdomen pelvis on lifeimage from ___ at 
05:22.
 
FINDINGS: 
 
The uterus is anteverted and measures 9.4 x 5.2 x 6.4 cm with 
multiple
fibroids, the largest measuring 2.3 x 1.5 x 1.7 cm.  The 
endometrium is
homogenous and measures 6 mm. The IUD was demonstrated within 
the endometrial
cavity. The IUD appears satisfactorily placed.
 
Large amount of free complex fluid consistent with 
hemoperitoneum is present
with a large hematoma visualized about the right adnexa.  A 
hemorrhagic right
ovarian cyst is visualized and measures 3.1 x 2.7 x 3.4 cm.  
Previously noted
active extravasation on CT was not visualized on ultrasound but 
ultrasound is
not sensitive for active bleeding.  Resolving left corpus luteal 
cyst measures
1.6 x 1.5 x 1.4 cm.  Due to acute, localized pain symptoms, 
spectral and color
Doppler of the ovaries was performed.  There was normal arterial 
and venous
flow demonstrated within the ovaries.
 
IMPRESSION: 
 
1. Large hemoperitoneum with large hematoma in the right adnexa. 
This may be
due to rupture of an ovarian cyst, please correlate with beta 
HCG levels
however as an ectopic pregnancy cannot be excluded.
2.  Please note that ultrasound is insensitive for detection of 
active
bleeding.
2.  3.4 cm hemorrhagic right ovarian cyst.
3. IUD in satisfactory position.  Fibroid uterus. Resolving left 
corpus luteal
cyst.
 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the Gynecology service for 
monitoring of a right hemorrhagic cyst and hemoperitoneum.

She initially received PO tylenol, and IV dilaudid prn pain. Her 
pain improved and she was transitioned to PO tylenol, PO 
ibuprofen, and PO tramadol prn. She underwent serial abdominal 
exams, and her abdomen remained soft and without concerning 
peritoneal signs. Her hematocrit was trended:  32.5 (___) 
-> 30 (1700 ___ -> 27.0 (0000 ___ -> 31.7 (0650 ___.

By hospital day #1, her hematocrit had stabilized. Her abdominal 
exam was benign and her vital signs were stable. She was 
discharged to home in good condition with outpatient follow-up 
as scheduled.
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not drive or combine with alcohol. 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
Take with food to avoid GI upset. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
3.  TraMADol 25 mg PO Q4H:PRN Pain - Moderate 
___ cause sedation. Do not drive or combine with alcohol. 
RX *tramadol 50 mg ___ tablet(s) by mouth every 4 hours Disp 
#*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ruptured hemorrhagic right ovarian cyst
Hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for monitoring after 
having a ruptured hemorrhagic ovarian cyst. Your blood counts 
stabilized and your pain improved. Your body will gradually 
reabsorb the blood from the ruptured cyst, but you may continue 
to have some pain for the next several days to weeks as you 
continue to recover.  The team believes you are ready to be 
discharged home.

Please call the doctor's office with any questions or concerns. 

Please follow the instructions below.

General instructions:
* Take your medications as prescribed. For pain, we recommend 
you use Tylenol (aka acetaminophen) and ibuprofen (aka Advil, 
Motrin) regularly for pain control, up to every 6 hours. They 
can safely be taken together. For ongoing pain despite these, 
you may also use tramadol (narcotic medicine).
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until you are feeling totally well.
* Pelvic rest (no intercourse) until you are feeling totally 
well.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain or sudden change in pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication
* persistent lightheadedness or dizziness
* chest pain 
* difficulty breathing

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___